US05489589
(3R, 4R)-3-Triethylsilyloxy-4-(2-furyl)-N-(n-butyloxycarbonyl)azetidin-2-one
(3R,4R)-3-Triethylsilyloxy-4-(2-furyl)azetidin-2-one (0.58 g, 2.17 mmol) in 30 mL of dichloromethane was stirred with diisopropylethyl amine (0.4 mL, 2.30 mmol) and butylchloroformate (0.3 mL, 2.36 mmol) in addition to a catalytic amount of DMAP (N,N-dimethylaminopyridine). The solution was stirred for 1 h and diluted with dichloromethane and washed with brine, dried over MgSO4 and concentrated. The residue was chromatographed over silica gel (eluted with 3:1 hexane/ethyl acetate) to give 523 mg of product (Y: 65%); IR(KBr) 1820, 1734, 1318, 1018, 734 cm-1 ; 1H NMR (CDCl3,300 MHz) δ7.38 (m, 1H), 6.35 (m, 2H), 5.09 (ABq, J=15.5, 5.6 Hz, 2H), 4.14 (m, 2H), 1.56 (m, 2H), 1.28 (s, 2H), 0.87 (t, J=8.7 Hz, 3H), 0.82 (t, J=7.9, 9H), 0.50 (m, 6H); 13C NMR (CDCl3,75.5 Hz) δ165.4, 149.1, 147.6, 142.9, 110.5, 109.9, 77.7, 66.6, 55.9, 30.5, 18.8, 13.6, 6.3, 4.3; DCIMS M+H calcd for C18H29NO5Si: 368, Found: 368.

reactant | (3R,4R)-3-Triethylsilyloxy-4-(2-furyl)azetidin-2-one | 2.17 mmol, 0.58 g | C(C)[Si](O[C@H]1C(N[C@H]1C=1OC=CC1)=O)(CC)CC | C13H21NO3Si
reactant | diisopropylethyl amine | 2.30 mmol, 0.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | butylchloroformate | 2.36 mmol, 0.3 mL | C(CCC)OC(=O)Cl | C5H9ClO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (3R, 4R)-3-Triethylsilyloxy-4-(2-furyl)-N-(n-butyloxycarbonyl)azetidin-2-one | 523 mg, 65% | C(C)[Si](O[C@H]1C(N([C@H]1C=1OC=CC1)C(=O)OCCCC)=O)(CC)CC | C18H29NO5Si
